US06130239
A solution of ethynylmagnesium chloride in THF (100 mL, 50 mmol) was diluted with THF (50 mL) and cooled in an ice-water bath. A solution of Boc-4-piperidone (5.06 g, 25.4 mmol) (Aldrich) in THF (50 mL) was added dropwise over 15 min. The mixture was stirred with cooling for 3 h. Aqueous ammonium chloride solution (100 mL, 15% W/V) was then added and the resulting mixture extracted with ether (2×200 mL). The ether layers were washed with saturated aqueous sodium chloride solution (200 mL), then combined, dried (MgSO4), filtered and concentrated. The residue was purified by chromatography (Biotage 40M, ethyl acetate - hexanes 1:3, V/V as solvent) to give N-Boc-4-hydroxy-4-ethynyl-piperidine as a colorless oil that solidified on standing. (Yield 5.39 g, 94.2%).

reactant | ethynylmagnesium chloride | C(#C)[Mg]Cl
reactant | Boc-4-piperidone | 25.4 mmol, 5.06 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mmol, 100 mL | C1CCOC1 | C4H8O
product | N-Boc-4-hydroxy-4-ethynyl-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)(C#C)O | C12H19NO3
